US08084395B2
560 mg (1.66 mmoles) of 3-(4-Fluoro-phenyl)-2-(2-methylthio-pyrimidin-4-yl)-1H-pyrrolo[3,2-b]pyridine is stirred at room temperature in a mixture of 50 mL of absolute ethanol and 40 mL of ammonia (15% in water). 2 g of Raney nickel (50% in water) is then added to the solution which is further stirred for 3 hours under refluxing conditions. Once cooled, the reaction mixture is filtered over celite and extracted with ethyl acetate. The organic phase is washed with water and dried over magnesium sulfate. The solid residue after concentration is solubilised in ethyl acetate and purified by chromatography on silica gel (ethylacetate/hexane 1/1) to give 250 mg of 3-(4-Fluoro-phenyl)-2-pyrimidin-4-yl-1H-pyrrolo[3,2-b]pyridine as yellowish solid.

reactant | 3-(4-Fluoro-phenyl)-2-(2-methylthio-pyrimidin-4-yl)-1H-pyrrolo[3,2-b]pyridine | 1.66 mmoles, 560 mg | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=NC(=NC=C2)SC | C18H13FN4S
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | ammonia | 40 mL | N | H3N
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | 3-(4-Fluoro-phenyl)-2-pyrimidin-4-yl-1H-pyrrolo[3,2-b]pyridine | 250 mg | FC1=CC=C(C=C1)C1=C(NC=2C1=NC=CC2)C2=NC=NC=C2 | C17H11FN4
